US07595320B2
169 mg (1.22 mmol) of potassium carbonate, followed by 191 mg (0.87 mmol) of 4-bromobenzoyl chloride, are added to a solution of 0.27 g (0.70 mmol) of tert-butyl 3-amino-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate in 20 mL of tetrahydrofuran under argon. The reaction mixture is stirred at reflux for 2 hours. The reaction mixture is then cooled to a temperature in the region of 25° C. and treated with 40 mL of ice-cold water. The mixture is extracted successively with 60 mL and then with twice 40 mL of ethyl acetate. The organic phases are combined, washed twice with 40 mL of saturated brine, dried over magnesium sulfate, filtered and then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 35° C. The residue is purified by chromatography on a cartridge of 25 g of silica gel (0.015-0.040 mm), eluting successively with dichloromethane/methanol mixtures (99/1 by volume, and then 98/2) at a flow rate of 13 mL/min. The fractions containing the expected product are combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 35° C. 0.04 g of tert-butyl 3-(4-bromobenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate is thus obtained in the form of a white solid melting at 192° C.

reactant | potassium carbonate | 1.22 mmol, 169 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobenzoyl chloride | 0.87 mmol, 191 mg | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | tert-butyl 3-amino-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate | 0.70 mmol, 0.27 g | NC=1C2=C(N(N1)C(=O)OC(C)(C)C)SC(=C2)C(=O)NN(C2=CC=CC=C2)C | C18H21N5O3S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-(4-bromobenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate | 0.04 g | BrC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C25H24BrN5O4S
